US07148215B2
2-Trifluoromethylpyridine-4-carbonyl azide
A suspension of 6-trifluoromethylnicotinic acid (2.90 g) in toluene (130 mL) was treated with diphenylphosphoryl azide (3.30 mL), then triethylamine (2.30 mL). After stirring at room temperature for 3.5 hours the reaction mixture was treated with water (80 mL). The organic phase was separated and the aqueous phase further extracted three times with ethyl acetate (40 mL). The combined organics were dried over magnesium sulfate and then evaporated under reduced pressure at room temperature such as to give the title compound as a 0.3M solution in toluene, which was used without further purification.

reactant | 6-trifluoromethylnicotinic acid | 2.90 g | FC(C1=NC=C(C(=O)O)C=C1)(F)F | C7H4F3NO2
reactant | diphenylphosphoryl azide | 3.30 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 2.30 mL | C(C)N(CC)CC | C6H15N
reactant | water | 80 mL | O | H2O
solvent | toluene | 130 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Trifluoromethylpyridine-4-carbonyl azide | FC(C1=NC=CC(=C1)C(=O)N=[N+]=[N-])(F)F | C7H3F3N4O
